US08710061B2
2,4-dichloro-7-(4-fluorophenyl)-6,7-dihydro-5H-cyclopenta[d]pyrimidine (Preparation H) (286 mg, 1.010 mmol) and 3-(trifluoromethyl)pyrrolidin-3-ol (157 mg, 1.010 mmol) were combined and purified as per Preparation Hb to give 1-(2-chloro-7-(4-fluorophenyl)-6,7-dihydro-5H-cyclopenta[d]pyrimidin-4-yl)-3-(trifluoromethyl)pyrrolidin-3-ol (62% yield). LC-MS (M+H)+=402.0.

reactant | 2,4-dichloro-7-(4-fluorophenyl)-6,7-dihydro-5H-cyclopenta[d]pyrimidine | 1.010 mmol, 286 mg | ClC=1N=C(C2=C(N1)C(CC2)C2=CC=C(C=C2)F)Cl | C13H9Cl2FN2
reactant | 3-(trifluoromethyl)pyrrolidin-3-ol | 1.010 mmol, 157 mg | FC(C1(CNCC1)O)(F)F | C5H8F3NO
product | 1-(2-chloro-7-(4-fluorophenyl)-6,7-dihydro-5H-cyclopenta[d]pyrimidin-4-yl)-3-(trifluoromethyl)pyrrolidin-3-ol | 62% yield | ClC=1N=C(C2=C(N1)C(CC2)C2=CC=C(C=C2)F)N2CC(CC2)(O)C(F)(F)F | C18H16ClF4N3O
